US06150549
A one-liter autoclave equipped with a stirrer was charged in a nitrogen atmosphere with 76 grams (0.60 mol) of 3,5-dimethyl-3-heptene, 161 grams (1.2 mol) of trichlorosilane and 29 grams (0.12 mol) of 1,1'-azobis(cyclohexane-1-carbonitrile) and the mixture was reacted at a temperature of 130° C. for 5 days. The resulting reaction mixture was purified by distillation thereby obtaining 92 grams (0.35 mol) of 3,5-dimethyl-4-trichlorosilylheptane. The structure of the resulting product was identified by 1H-NMR.

reactant | 3,5-dimethyl-3-heptene | 0.60 mol, 76 grams | CC(CC)=CC(CC)C | C9H18
reactant | trichlorosilane | 1.2 mol, 161 grams | Cl[SiH](Cl)Cl | Cl3HSi
reactant | 1,1'-azobis(cyclohexane-1-carbonitrile) | 0.12 mol, 29 grams | N(=NC1(CCCCC1)C#N)C1(CCCCC1)C#N | C14H20N4
product | 3,5-dimethyl-4-trichlorosilylheptane | 0.35 mol, 92 grams, Yield: 58% | CC(CC)C(C(CC)C)[Si](Cl)(Cl)Cl | C9H19Cl3Si
